US09381196B2
To a solution of methyl 8-chloro-8-oxooctanoate (229 mg, 1.11 mmol) in DMF at 0° C. was added a solution of 4-bromo-2-nitroaniline (200 mg, 0.922 mmol) and triethylamine (0.37 mL, 2.77 mmol) in DMF drop-wise. The reaction was stirred overnight at room temperature, diluted with ethyl acetate and washed with 1 N HCl, saturated sodium bicarbonate solution and brine. The separated organic layer was concentrated and purified by biotage column chromatography to give methyl 8-(4-bromo-2-nitrophenylamino)-8-oxooctanoate (290 mg)

reactant | methyl 8-chloro-8-oxooctanoate | 1.11 mmol, 229 mg | ClC(CCCCCCC(=O)OC)=O | C9H15ClO3
reactant | 4-bromo-2-nitroaniline | 0.922 mmol, 200 mg | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | triethylamine | 2.77 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 8-(4-bromo-2-nitrophenylamino)-8-oxooctanoate | 290 mg | BrC1=CC(=C(C=C1)NC(CCCCCCC(=O)OC)=O)[N+](=O)[O-] | C15H19BrN2O5
